US07776882B2
5-Cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid cyclohexyl-methyl-amide
A solution of 5-cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid (0.87 g, 2 mmol), N-methylcyclohexylamine (0.26 mL, 2 mmol), HBTU (1.13 g, 3 mmol), DIPEA (1.2 mL, 7 mmol) in DMF (20 mL) was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture. The solution washed with saturated aqueous NaHCO3 solution. The organic phase was separated and dried with MgSO4, and filtered. The solvent was removed in vacuo to yield the title compound as an oil.

reactant | 5-cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid | 2 mmol, 0.87 g | C(#N)C(C(CCC(=O)O)C1CCOCC1)=CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C24H24N2O6
reactant | N-methylcyclohexylamine | 2 mmol, 0.26 mL | CNC1CCCCC1 | C7H15N
reactant | HBTU | 3 mmol, 1.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 7 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(C(CCC(C(=CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])C#N)C1CCOCC1)=O)C | C31H37N3O5
